US06787543B2
A solution of 3-bromo-1,1-diphenyl-2-propanone (0.5 g) in tetrahydrofuran (10 ml) was added to a mixture of (2-methoxy-benzyl)amine (1.13 ml) and N,N-diisopropylethylamine (0.602 ml) in tetrahydrofuran (12 ml) over 0.5 hour at room temperature. After being stirred at room temperature for 1.5 hours, the mixture was concentrated under reduced pressure to half volume and the resulting mixture was poured into ice-water (10 ml) and extracted with ethyl acetate (10 ml×2). The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give 3-[(2-methoxybenzyl)amino]-1,1-diphenylpropan-2-one (483 mg) as a colourless syrup.

reactant | 3-bromo-1,1-diphenyl-2-propanone | 0.5 g | BrCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13BrO
reactant | (2-methoxy-benzyl)amine | 1.13 ml | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | N,N-diisopropylethylamine | 0.602 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 3-[(2-methoxybenzyl)amino]-1,1-diphenylpropan-2-one | 483 mg | COC1=C(CNCC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC=C1 | C23H23NO2
